US07763638B2
Synthesis of 2-{6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-N-methyl-2-phenyl-acetamide
A mixture of {6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid (0.20 mmol), methylamine hydrochloride (0.20 mmol), PyBOP (0.20 mmol) and DIPEA (0.46 mmol) in DMF (1.0 mL) is stirred at RT for 20 h. Water and EA are added, the layers are separated and the aqueous layer is extracted with EA. The combined organic extracts are dried over MgSO4 and concentrated in vacuo. The residue is purified by flash chromatography (EA) to give the desired product as a viscous oil.

reactant | {6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid | 0.20 mmol | COC=1C=C2CCN(C(C2=CC1OC)CCC=1C=NC(=CC1)C(F)(F)F)C(C(=O)O)C1=CC=CC=C1 | C27H27F3N2O4
reactant | methylamine hydrochloride | 0.20 mmol | Cl.CN
reactant | PyBOP | 0.20 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.46 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | Water | O | H2O
product | 2-{6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-N-methyl-2-phenyl-acetamide | COC=1C=C2CCN(C(C2=CC1OC)CCC=1C=NC(=CC1)C(F)(F)F)C(C(=O)NC)C1=CC=CC=C1 | C28H30F3N3O3
